US08372986B2
3-(5-phenyl-1H-1,2,3-triazol-1-yl)propan-1-ol (9a)
3-Azidopropanol (101 mg, 1 mmol), phenylacetylene (113 mg, 1.1 mmol), Cp*RuCl(PPh3)2 (8 mg, 0.01 mmol, 1 mol %). Solvent: THF, 10 mL, 60° C., 2 hours. White microcrystalline product was obtained in 82% yield (167 mg). ESI-MS: m/z 204, [M+H].

reactant | 3-Azidopropanol | 1 mmol, 101 mg | N(=[N+]=[N-])CCCO | C3H7N3O
reactant | phenylacetylene | 1.1 mmol, 113 mg | C1(=CC=CC=C1)C#C | C8H6
catalyst | Cp*RuCl(PPh3)2 | 0.01 mmol, 8 mg | C[C-]1C(=C(C(=C1C)C)C)C.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-(5-phenyl-1H-1,2,3-triazol-1-yl)propan-1-ol | 82% yield | C1(=CC=CC=C1)C1=CN=NN1CCCO | C11H13N3O
